US09216998B2
Thionyl chloride (0.7 g; 5.8 mmol) was added to a solution of tert-butyl 7-hydroxy-6-phenethyl-7-(trifluoromethyl)-3,4,6,7-tetrahydro[1,4]diazepino[6,7,1-hi]indole-2(1H)-carboxylate (2.7 g; 5.8 mmol) in pyridine (7 mL) at O° C. After 2 h at 0° C., the resulting mixture was concentrated and the residue purified by silica gel chromatography (heptane-ethyl acetate) to yield tert-butyl 6-phenethyl-7-(trifluoromethyl)-3,4-dihydro-[1,4]diazepino[6,7,1-hi]indole-2(1H)-carboxylate (1.4 g, 53%).

reactant | Thionyl chloride | 5.8 mmol, 0.7 g | S(=O)(Cl)Cl | Cl2OS
reactant | tert-butyl 7-hydroxy-6-phenethyl-7-(trifluoromethyl)-3,4,6,7-tetrahydro[1,4]diazepino[6,7,1-hi]indole-2(1H)-carboxylate | 5.8 mmol, 2.7 g | OC1(C=2C=CN3C2C(=CC1CCC1=CC=CC=C1)CNC(C3)C(=O)OC(C)(C)C)C(F)(F)F | C25H29F3N2O3
solvent | pyridine | 7 mL | N1=CC=CC=C1 | C5H5N
product | tert-butyl 6-phenethyl-7-(trifluoromethyl)-3,4-dihydro-[1,4]diazepino[6,7,1-hi]indole-2(1H)-carboxylate | 1.4 g, 53% | C(CC1=CC=CC=C1)C=1C(=C2C=CN3C2=C(C1)CNC(C3)C(=O)OC(C)(C)C)C(F)(F)F | C25H27F3N2O2
